US08304425B2
A mixture of 3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(1H-indol-3-yl)-1,5-dihydro-pyrrol-2-one (700 mg, 2 mmol), MeOH (25 mL) and magnesium turnings (963 mg, 40 mmol) was heated at 60° C. for 4 h. The reaction mixture was then allowed to cool to room temperature and evaporated. The residue was stirred in 1M HCl (70 mL) for 15 mins and extracted twice with EtOAc. The organics were evaporated and the residue purified using column chromatography (SiO2, EtOAc/MeOH). Tituration with hot EtOAc afforded (±)-trans-3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(1H-indol-3-yl)-pyrrolidin-2-one as an off-white powder (190 mg, 27%). M.p.=241-243° C.; 1H NMR (400 MHz, DMSO-d6) δ: 10.86 (d, J=1.6 Hz, 1H), 7.92 (s, 1H), 7.44 (d, J=7.6 Hz, 1H), 7.33-7.23 (m, 3H), 7.17 (s, 1H), 7.03 (m, 1H), 6.90 (m, 1H), 6.86-6.78 (m, 2H), 4.03 (m, 4H), 3.81 (m, 1H), 3.31 (m, 1H), 2.87 (t, J=6.4 Hz, 2H), 2.08 (m, 2H); LCMS: 356 [M+H].

reactant | 3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(1H-indol-3-yl)-1,5-dihydro-pyrrol-2-one | 2 mmol, 700 mg | C1(=CN2CCCC3=CC=CC1=C23)C=2C(NCC2C2=CNC3=CC=CC=C23)=O | C23H19N3O
reactant | magnesium | 40 mmol, 963 mg | [Mg] | Mg
solvent | MeOH | 25 mL | CO | CH4O
product | (±)-trans-3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(1H-indol-3-yl)-pyrrolidin-2-one | 190 mg, 27% | C1(=CN2CCCC3=CC=CC1=C23)[C@@H]2C(NC[C@H]2C2=CNC3=CC=CC=C23)=O | C23H21N3O
